### PR TITLE
feat: Naturality of integral curves

### PR DESCRIPTION
**Pull request by winstonyin**
Let `v` and `v'` be sections of the tangent bundle of manifolds `M` and `M'`, respectively, and let  `f : M → M'` be a differentiable map. Then `f` maps integral curves of `v` to integral curves of `v'` if and only if `v` and `v'` are `f`-related.

- [x] depends on: #8483
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 1]
```diff
@@ -0,0 +1,354 @@
...
+
+section Naturality
+
+variable
+  {E' : Type*} [NormedAddCommGroup E'] [NormedSpace ℝ E']
+  {H' : Type*} [TopologicalSpace H'] {I' : ModelWithCorners ℝ E' H'}
+  {M' : Type*} [TopologicalSpace M'] [ChartedSpace H' M'] [SmoothManifoldWithCorners I' M']
+  {v' : (x : M') → TangentSpace I' x}
+
+/-- Let `v` and `v'` be vector fields on `M` and `M'`, respectively, and let `f : M → M'` be a
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:324]: I'd just remove "the converse is stated below". (Also below.)

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 2]
```diff
@@ -0,0 +1,354 @@
...
+  differentiable map. If `v` and `v'` are `f`-related, then `f` maps integral curves of `v` to
+  integral curves of `v'`. The converse is stated below. -/
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:326]: This is scope creep, but... how about introducing a definition of f-related vector fields? (I don't mind any somewhat interesting API being out of scope, but the definition would be useful, I think.)

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 3]
```diff
@@ -0,0 +1,354 @@
...
+    {f : M → M'} (hf : MDifferentiable I I' f)
+    (h : ∀ (γ : ℝ → M) (t₀ : ℝ), IsIntegralCurveAt γ v t₀ → IsIntegralCurveAt (f ∘ γ) v' t₀)
+    (x : M) : v' (f x) = mfderiv I I' f x (v x) := by
+  obtain ⟨γ, h0, hγ⟩ : ∃ γ : ℝ → M, γ 0 = x ∧ IsIntegralCurveAt γ v 0 :=
+    exists_isIntegralCurveAt_of_contMDiffAt_boundaryless 0 hv.contMDiffAt
+  have hγ' := (h γ 0 hγ).hasMFDerivAt
+  have hγ := hγ.hasMFDerivAt
+  rw [Function.comp_apply, h0] at hγ'
+  rw [h0] at hγ
+  have := hasMFDerivAt_unique hγ' <| HasMFDerivAt.comp 0 (hf (γ 0)).hasMFDerivAt hγ
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:350]: More dot notation:
```suggestion
  have := hasMFDerivAt_unique hγ' <| (hf (γ 0)).hasMFDerivAt.comp 0 hγ

File: Mathlib/Geometry/Manifold/IntegralCurve.lean [hunk 4]
```diff
@@ -0,0 +1,354 @@
...
+/-- For any continuously differentiable vector field defined on a manifold without boundary and any
+  chosen starting point `x₀ : M`, an integral curve `γ : ℝ → M` exists such that `γ t₀ = x₀` and the
+  tangent vector of `γ` at `t` coincides with the vector field at `γ t` for all `t` within an open
+  interval around `t₀`. -/
+lemma exists_isIntegralCurveAt_of_contMDiffAt_boundaryless [BoundarylessManifold I M]
+    (hv : ContMDiffAt I I.tangent 1 (fun x ↦ (⟨x, v x⟩ : TangentBundle I M)) x₀) :
+    ∃ (γ : ℝ → M), γ t₀ = x₀ ∧ IsIntegralCurveAt γ v t₀ :=
+  exists_isIntegralCurveAt_of_contMDiffAt t₀ hv (BoundarylessManifold.isInteriorPoint I)
+
+section Naturality
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IntegralCurve.lean:316]: Can you add a doc-string to this section, and - more importantly, mention *this* result in the high-level docstring?

**Review by grunweg — COMMENTED** [review]
Took a preliminary look: looks pretty good to me. I would define f-relatedness, a new minor comments and then, once the dependent PR has been merged, it's good to go from my side.

If you want: add the Lie bracket under f-relatedness as a future TODO.

**Comment by grunweg** [comment]
I just realised: defining f-relatedness might entail defining vector fields as well. Sorry. I think this would be a great addition as well.

**Comment by winstonyin** [comment]
I agree with the need for new definitions. There's already `ContMDiffSection`, which we can perhaps generalise. I'll think about this another day.

File: Mathlib/Geometry/Manifold/IntegralCurve.lean (hunk 4 above)
Comment (winstonyin) [reply Mathlib/Geometry/Manifold/IntegralCurve.lean:316]: Yes of course! If we're going to introduce `f`-relatedness and so on, which will be in a different file, this section should probably also go in a different file.

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
